US05753665
A mixture of 1-chloro-4-methyl-1-penten-3-one (5.83 g), 3-amino-1,2,4-triazole (3.69 g) and glacial acetic acid was heated under reflux for 1 hour and 30 minutes. The reaction mixture was poured onto ice and extracted with dichloromethane. The organic layer was dried over magnesium sulphate and the solvent was evaporated to give a product which was recrystallised from petroleum ether (b.p. 100°-140° C.), to give 7-(1-methylethyl)-1,2,4-triazolo[1,5-a]pyrimidine. Yield 4.18 g.

reactant | 1-chloro-4-methyl-1-penten-3-one | 5.83 g | ClC=CC(C(C)C)=O | C6H9ClO
reactant | 3-amino-1,2,4-triazole | 3.69 g | NC1=NNC=N1 | C2H4N4
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 7-(1-methylethyl)-1,2,4-triazolo[1,5-a]pyrimidine | CC(C)C1=CC=NC=2N1N=CN2 | C8H10N4
